
* CREE C2M0080120D SiC Power MOSFET
* BASED ON MCNUTT-HEFNER POWER MOSFET MODEL
* AVAILABLE AT www.igbtmodels.org
* Developed by Lorenzo Ceccarelli


.SUBCKT SiCMOS D G S Tj


 ***** ON-STATE RESISTANCE MODEL *****


.param A = {0.15387}
* device active area [cm^2]
.param Nb = {3207361500000000}
* drift region dopant density [cm^-3]
.param q = 1.6e-19
* foundamental electronic charge [C]
.param Rs = {0.0015229}
* drain series resistance [ohm]
.param eps_semi = {9.66*8.854e-14}
* SiC dielectric constant [F/cm]
.param k = 1.38e-23
* Boltzmann´s constant
.param Wb = {0.002}
* metallurgical drift region width [cm]

* intrinsic carrier concentration
Eni 3 0 value = { LIMIT(4.81E15*PWR(v(Tj),1.5)*exp(-18567/v(Tj)),0,1E11)}
REni 3 0 1E10

* built-in junction potential
EVbi 2 0 value = { LIMIT(k*v(Tj)/q*LOG(1E16*Nb/PWR(v(3),2)),0,100)}
RVbi 2 0 1E12

* quasineutral drift region width (W=Wb-Wdsj) [cm]
EW 1 0 value = { LIMIT(Wb-SQRT(2*eps_semi*(v(D)+v(2))/q/Nb),0,1E-3)}
RW 1 0 1E12

* bulk electron mobility
Eun 4 0 value = { LIMIT(947/(1+PWR(Nb/1.94e17,0.61))*PWR(v(Tj)/300,-2.15),0,1E3)}
Run 4 0 1E12

ERb 5 0 value = {LIMIT(Rs + v(1)/(q*A*Nb*v(4)),0,1)}

ERon D D2 value = {I(VSENSE)*v(5)}
VSENSE D2 D1 0V




 ***** CAPACITANCES MODEL *****

.param Agd = 0.015387
* gate-drain overlap area [cm^-2]
.param Vtd = 10
* gate-drain overlap depletion threshold
.param Coxd = 1.79e-10
* gate-drain overlap oxide capacitance
.param Cgs = 1.0886e-09
* gate-source capacitance
.param Fxjbe = 0.5
* gate-drain overlap depletion charge factor at edge
.param Fxjbm = 0.75
* gate-drain overlap depletion charge factor at middle

* gate-drain overlap inversion treshold voltage
EVtdi 6 0 value = {Vtd-v(2)-Fxjbm*Agd/Coxd*SQRT(2*eps_semi*q*Nb*(v(2)+v(D1)))}
RVtdi 6 0 1E12
EVtdiedge 8 0 value = {Vtd-v(2)-Fxjbe*Agd/Coxd*SQRT(2*eps_semi*q*Nb*(v(2)+v(D1)))}
RVtdiedge 8 0 1E12

* GATE-SOURCE CAPACITANCE
Cgs G S 1.0886e-09

* gate-drain depletion capacitance
ECgdj 7 0 value = { LIMIT(Agd*eps_semi/SQRT(2*eps_semi*(v(D1,G)+Vtd)/q/Nb),0,2n) }
RCgdj 7 0 1E12

* GATE-DRAIN CAPACITANCE
GCgd D1 G value={ LIMIT(IF(v(G)-Vtd>=V(D1), Coxd*DDT(v(D1,G)),
+ Coxd*v(7)/(Coxd+v(7))*DDT(v(D1,G))),-10,10) }

* drain-source junction capacitance
ECdsj 9 0 value = { LIMIT((A-Agd)*eps_semi/SQRT(2*eps_semi*(v(D1)+v(2))/q/Nb),0,10n) }
RCdsj 9 0 1E12

* DRAIN-SOURCE CAPACITANCE
GCds D1 S value={ LIMIT(v(9)*DDT(v(D1)),-10,10)}




 **** MOSFET CURRENT MODEL ****

.param Kfl = {0.013787}     
* low current transconductance factor
.param theta = 0
* transverse electric field parameter
.param Kp = {1.8246}
* saturation region transconductance
.param Kf = {2} 
* linear transconductance factor
.param Vtr = {4.1447}
* threshold voltage
.param dVtl = 0
* low current treshold voltage differential
.param Vth = {Vtr+Kfl/(1-Kfl)*dVtl}    
* high current voltage threshold
.param Vtl = {Vtr-dVtl}				  
* low current voltage threshold
.param Pvf = {0.6}
* pinch-off voltage factor
.param y = {Kf/(Kf-Pvf/2)}

* low threshold current
GIMOSL D1 S  value = { IF(v(D1)<=(v(G)-Vtl)/Pvf, 
+	Kfl*Kf*Kp*((v(G)-Vtl)*v(D1)-PWR(Pvf,(y-1))*PWR(v(D1),y)*PWR((v(G)-Vtl),(2-y))/y)
+	/(1+theta*(v(G)-Vtl)),
+	Kfl*Kp*PWR((v(G)-Vtl),2)/2/(1+theta*(v(G)-Vtl))) }

* high threshold current
GIMOSH D1 S  value = { IF(v(D1)<=(v(G)-Vth)/Pvf, 
+	(1.0-Kfl)*Kf*Kp*((v(G)-Vth)*v(D1)-1/y*PWR(Pvf,(y-1))*PWR(v(D1),y)*PWR(v(G)-Vth,(2-y)))
+ 	/(1+theta*(v(G)-Vth)),
+	(1.0-Kfl)*Kp*PWR(v(G)-Vth,2)/2/(1+theta*(v(G)-Vth))) }

* below high threshold
GIMOSBHT D1 S  value = { IF(v(G)<= Vth, 
+	-(1.0-Kfl)*Kp*PWR(v(G)-Vth,2)/2/(1+theta*(v(G)-Vth)), 0 ) }

* below low threshold
GIMOSBLT D1 S  value = { IF(v(G)<= Vtl, 
+	-Kfl*Kp*PWR((v(G)-Vtl),2)/2/(1+theta*(v(G)-Vtl)), 0 ) }

.ends SiCMOS


.END